data/core_train_final.csv
"C[C:10]1[CH:20]2CC([C:21]2(C)C)CC1O>>C[C:21](C1C[CH:20]=[C:10](C(C1)O)C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:11][CH3:10].[Cl:20].[Ar]>>[Ar].[CH3:10].[H:11][Cl:20] 20-11,20;10,11-11,20;10,11-10",Heat,Propagation,abstraction
"CCC(C)(C)C.[Cl:20][Cl:21].[He]>>[He].CCC(C)(C)C.[Cl:20].[Cl:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[CH3:12][C:11]([CH3:15])([C:13]#[N:14])[C:9]([C:8]([Cl:7])[F:17])([F:16])[F:10].[C:2](=[C:4]([F:6])[F:5])([F:1])[Cl:3]>>[CH3:12][C:11]([CH3:15])([C:13]#[N:14])[C:9]([C:8]([C:4]([C:2]([F:1])[Cl:3])([F:6])[F:5])([Cl:7])[F:17])([F:16])[F:10] 8-8,4; 4,2-8,4; 4,2-2",Room Temperature,Propagation,addition
"CCCC[CH:10]C.[Cl:20][Cl:21]>>CCCC[CH:10](C)[Cl:20].[Cl:21] 21,20-10,20;21,20-21;10-20,10",Room Temperature,Propagation,abstraction
"[H:9][O:8][S-:7](=[O:6])=[O:10].[O-:1][S:2](=[O:3])(=[O:5])[O:4]>>[H:9][O:4][S:2](=[O:3])(=[O:5])[O-:1].[O:6]=[S-:7](=[O:10])[O:8] 4-4,9; 8,9-4,9; 9,8-8",Room Temperature,Propagation,abstraction
"[H:15][C:14]1[CH:13]=[CH:12][C:11](=[C:9]2[C:8](=[O:19])[C:7](=[O:20])[C:6]3=[C:4]([CH:3]=[C:2]([CH:22]=[C:21]3[O:10]2)[OH:1])[OH:5])[C:17](=[CH:16]1)[H:18]>>[H:15][C:14]1=[CH:16][C:17]([C:11](=[C:9]2[C:8](=[O:19])[C:7](=[O:20])[C:6]3=[C:4]([CH:3]=[C:2]([CH:22]=[C:21]3[O:10]2)[OH:1])[OH:5])[CH:12]=[CH:13]1)[H:18] 14-14,16; 16,17-14,16; 16,17-17",Room Temperature,Propagation,resonance
"[H:20][Br:21].CCCCC[CH:10]CBr>>[H:20][CH:10](CCCCC)CBr.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)[CH2:10].[Cl:20][Cl:21]>>CCC(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]1=[CH:8][C:6]([C:5](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[CH:4]=[CH:3]1)[H:7]>>[H:1][C:2]1[CH:3]=[CH:4][C:5](=[C:9]([C:10]2=[CH:11][CH:12]=[CH:13][CH:14]=[CH:15]2)[C:16]3=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]3)[C:6](=[CH:8]1)[H:7] 6-6,8; 2,8-6,8; 2,8-2",Room Temperature,Propagation,resonance
"CC(=O)[CH:21]=[CH2:20].CC(=O)[CH:10]CC(C)(C)C(=N)N>>CC(=O)[CH:21][CH2:20][CH:10](CC(C)(C)C(=N)N)C(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1(CCC=CC1)C.[Br:20][Br:21].[He]>>[He].CC1(CCC=CC1)C.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:20][Sn:21](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C[C:10](C)C#N>>[H:20][C:10](C)(C)C#N.C1=CC=C(C=C1)[Sn:21](C2=CC=CC=C2)C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[Sn](CCCC)(CCCC)Br.CC1CCC(=O)[C:21]1=[CH2:20].C[C:10](C)CCC(=O)C>>CCCC[Sn](CCCC)(CCCC)Br.CC1CCC(=O)[C:21]1[CH2:20][C:10](C)(C)CCC(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"O=C1CCCN1[CH:21]=[CH2:20].C2OC[CH:10]OC2>>O=C3CCCN3[CH:21][CH2:20][CH:10]4COCCO4 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21](C)(CCCO[O:10])O>>[H:20][O:10]OCCC[C:21](C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:6][C:5]([H:7])([H:8])[CH2:4][CH2:3][CH2:2][CH3:1].[Cl:9]>>[H:6][C:5]([H:7])[CH2:4][CH2:3][CH2:2][CH3:1].[H:8][Cl:9] 5,8-9,8;5,8-5;9-9,8",Room Temperature,Propagation,abstraction
"[H:6][S:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14][CH3:15].[CH3:1][C:2]([CH3:3])([CH3:4])[O:5]>>[H:6][O:5][C:2]([CH3:1])([CH3:3])[CH3:4].[CH3:15][CH2:14][CH2:13][CH2:12][CH2:11][CH2:10][CH2:9][CH2:8][S:7] 5-5,6; 7,6-5,6; 7,6-7",Room Temperature,Propagation,abstraction
"CCCCOC(=O)[CH:21]=[CH2:20].C[C:10](C)C#N>>CCCCOC(=O)[CH:21][CH2:20][C:10](C)(C)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCOC(=O)[C:10](C)CC(C)(C)C#N.CC1(C2CC[C:21](=[CH2:20])C1C2)C>>CCOC(=O)[C:10](C)([CH2:20][C:21]1CCC2CC1C2(C)C)CC(C)(C)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[CH:10]C1=CC=CC=C1.CC(=O)[CH:21]=[CH2:20]>>C[CH:10]([CH2:20][CH:21]C(=O)C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:4][C:3](=[CH:5][C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1]>>[H:4][C:3]([CH:5]=[C:6]1[CH:7]=[CH:8][C:9](=[O:14])[C:10](=[CH:13]1)[O:11][CH3:12])[C:2](=[O:15])[O-:1] 6-5,6; 3,5-5,6; 3,5-3",Room Temperature,Propagation,resonance
"[H:8][C:7]1=[C:9]2[C:10]([C:12]3=[C:13]([CH:14]=[CH:15][CH:16]=[CH:17]3)[C:2](=[O:1])[C:3]2=[CH:4][CH:5]=[CH:6]1)[H:11]>>[H:8][C:7]1[CH:6]=[CH:5][CH:4]=[C:3]2[C:9]1=[C:10]([C:12]3=[C:13]([C:2]2=[O:1])[CH:14]=[CH:15][CH:16]=[CH:17]3)[H:11] 10-9,10; 7,9-9,10; 7,9-7",Room Temperature,Propagation,resonance
"[CH3:6][C:7]1([CH:9]2[CH2:10][CH2:11][C:12](=[CH2:15])[CH:13]1[CH2:14]2)[CH3:8].[CH2:4][C:3](=[O:5])[CH2:2][Cl:1]>>[CH3:6][C:7]1([CH:9]2[CH2:10][CH2:11][C:12]([CH:13]1[CH2:14]2)[CH2:15][CH2:4][C:3](=[O:5])[CH2:2][Cl:1])[CH3:8] 4-4,15; 12,15-4,15; 12,15-12",Room Temperature,Propagation,addition
